* C:\Users\tatja\Documents\Studium\PEP\Git\PEP-Project\PepDraft2.asc
* Generated by LTspice 26.0.1 for Windows.
V1 Ub+ 0 9
V2 0 Ub- 9
R1 N002 N001 10k
R2 N004 Rechteck 10k
C1 Dreieck N004 0.8µ
R4 Rechteck N003 12k
R5 N007 N002 100k
R6 Dreieck N003 11k
R7 Ub+ N002 1k
R8 N002 Ub- 1k
R3 N006 Dreieck 33k
R9 PWM N006 1000k
R10 Ub+ N005 2.7k
R11 N008 Ub- 2.7k
X§U1 N006 N005 Ub+ Ub- PWM level2 Avol=1Meg GBW=4.5Meg Slew=13000 Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V3 N001 0 PULSE(0 1 0.1 0.0001 0.0001 0.01 10 1)
X§U2 N007 N004 Ub+ Ub- Dreieck level3a Avol=1Meg GBW=4.5Meg Slew=13000 Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
X§U3 N003 N002 Ub+ Ub- Rechteck level3a Avol=1Meg GBW=4.5Meg Slew=13000 Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R12 N012 Dreieck 11k
C2 Sinus N012 0.4µ
R13 Sinus N012 10Meg
R14 N005 N008 1k
R15 P001 NC_01 100
D1 P001 NC_02 D
X§U5 0 N012 Ub+ Ub- Sinus ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U4 0 N010 Ub+ Ub- N011 level2 Avol=1Meg GBW=4.5Meg Slew=13000 Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R18 N010 Ub+ 10k
C3 N011 N010 3µ
Q1 N011 N009 N010 0 NPN
R16 Rechteck N009 1k
.model D D
.lib C:\Users\tatja\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\tatja\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 3s 0 0.0001 startup
.inc opamp.sub
* Library below included based on ModelFile attribute of instance X§U5 (C:\Users\tatja\AppData\Local\LTspice\lib\sym\OpAmps\ADTL082.asy)
.lib ADI.lib
* Library below included based on ModelFile attribute of instance X§U1, X§U4 (C:\Users\tatja\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp2.asy)
.lib UniversalOpAmp2.lib
* Library below included based on ModelFile attribute of instance X§U2, X§U3 (C:\Users\tatja\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp3.asy)
.lib UniversalOpAmp3a.lib
.backanno
.end
